US06241964B1
Step 2: [2-Fluoromethoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenyl-piperidin-3-yl)-amine dihydrochloride.
A room temperature solution of [2-fluoromethoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-1-t-butoxy carbonyl-2-phenyl-piperidin-3-yl)-amine (113 mg, 0.205 mmol) in methylene chloride (5 mL) was treated with trifluoroacetic acid (2.5 mL) and stirred at room temperature for 50 minutes. HPLC analysis (C18 Vydac protein and peptide column, 4.6×250 mm, 1 mL/min, linear gradient of 10% MeCN:H2O (0.1% TFA) to 95% MeCN over 15 minutes, hold at 95% MeCN for 10 minutes, 254 nm) shows the title compound at 13.5 minutes. The reaction was concentrated in vacuo to give a yellow oil and transferred to a separatory funnel using ethyl acetate/aq. satd'd NaHCO3. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried (MgSO4), filtered and concentrated in vacuo to give 136 mg of crude title compound as a yellow oil. TLC (5:93:2 methanol:ethyl acetate:triethylamine) shows the title compound at 0.35 Rf. This material was dissolved in chloroform and purified by radial chromatography (5:93:2 methanol:ethyl acetate:triethylamine) to give 41.2 mg of pure product along with 50 mg of product containing small amounts of the corresponding phenol. The pure product was dissolved in diethyl ether, cooled to 0° C. and HCl (g) was bubbled into the ether. Removal of the ether and drying gave 48 mg of the hydrochloride salt as an off white solid.

reactant | [2-fluoromethoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-1-t-butoxy carbonyl-2-phenyl-piperidin-3-yl)-amine | 0.205 mmol, 113 mg | FCOC1=C(CN[C@@H]2[C@@H](N(CCC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | C26H30F4N6O3
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | MeCN | CC#N | C2H3N
reactant | H2O | O | H2O
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | [2-Fluoromethoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenyl-piperidin-3-yl)-amine dihydrochloride | Cl.Cl.FCOC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | InChI=1S/C21H22F4N6O.2ClH/c22-13-32-18-9-8-16(31-20(21(23,24)25)28-29-30-31)11-15(18)12-27-17-7-4-10-26-19(17)14-5-2-1-3-6-14;;/h1-3,5-6,8-9,11,17,19,26-27H,4,7,10,12-13H2;2*1H/t17-,19-;;/m0../s1
